US04151165
N,N'-dimethyltetrahydro-4,4'-bipyridyl (DMTB) was prepared from N-methylpyridinium chloride by electrolytic dimerization and obtained in the form of a diethyl ether solution thereof. The so obtained diethyl ether solution was vacuum-distilled to obtain pure DMTB. As the pure DMTB tends to decompose immediately upon contact with oxygen in air, it was carefully handled in a nitrogen atmosphere. A 500 ml three-necked flask was sufficiently washed and dried and then completely filled with nitrogen gas. Into this flask were charged 200 ml of degassed water and 40 millimoles of nitrobenzene. 8 millimoles of DMTB was added, while stirring by rotating a magnetic stirrer having a length of 4 cm at 500 r.p.m., to the mixture charged in the flask, and the reaction was allowed to proceed at room temperature and atmospheric pressure in an atmosphere of nitrogen gas. The measurement of change, with the lapse of time, of pH showed that the pH changed from 6.8 to 12.7 one hour after the initiation of the reaction and it changed no more thereafter.

reactant | N-methylpyridinium chloride | [Cl-].C[N+]1=CC=CC=C1
solvent | diethyl ether | C(C)OCC | C4H10O
product | DMTB | CN1CCC(CC1)C1=CCN(C=C1)C | C12H20N2
